US06458772B1
d) Chloromethyl 4-(N-benzyloxycarbonyl-L-valyloxy)-cyclohexanoate
To a solution of 4-(N-benzyloxycarbonyl-L-valyloxy) cyclohexanoic acid (6.6 g, 20 mmole) in 1,4-dioxane (70 ml) was added a 40% solution of tetrabutylammonium hydroxide (11.34 g, 17.5 mmole) and the mixture was stirred 2 hours at room temperature. The mixture was evaporated under reduced pressure and co-evaporated two times with 1,4-dioxane and two times with toluene. The dried product was dissolved in 60 ml dichloromethane and iodochloromethane (30.9 g, 175 mmole) was added. The solution was stirred for two days at room temperature and evaporated under reduced pressure. About 100 ml ethyl actate was added and the organic phase washed twice with water, dried with sodium sulfate and evaporated under reduced pressure. The product was isolated by silica gel column chromatography with toluene/acetone. Yield: 4.1 g=55%.

reactant | 4-(N-benzyloxycarbonyl-L-valyloxy) cyclohexanoic acid | 20 mmole, 6.6 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OC1CCC(CC1)C(=O)O | C20H27NO6
reactant | tetrabutylammonium hydroxide | 17.5 mmole, 11.34 g | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | iodochloromethane | 175 mmole, 30.9 g | ICCl | CH2ClI
solvent | 1,4-dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | Chloromethyl 4-(N-benzyloxycarbonyl-L-valyloxy)-cyclohexanoate | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OC1CCC(CC1)C(=O)OCCl | C21H28ClNO6
